US07465795B2
4-amino-N-cyclobutyl-8-(2,4-dimethoxypyrimidin-5-yl)-7-fluoro-cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide (175 mg) and 2,4-dimethoxypyrimidin-5-yl boronic acid (207 mg) were reacted to afford the title compound (88 mg) as white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.24 (d, 1H), 8.57 (m, 1H), 8.38 (s, 1H), 7.77 (m, 1H), 4.49 (m, 1H), 4.00 (s, 3H), 3.84 (s, 3H), 2.26-2.10(m, 4H), 1.72-1.62 (m, 2H). MS APCI, m/z=399 (M+H).

reactant | 4-amino-8-bromo-7-fluoro-N-cyclobutyl-cinnoline-3-carboxamide | 175 mg | NC1=C(N=NC2=C(C(=CC=C12)F)Br)C(=O)NC1CCC1 | C13H12BrFN4O
reactant | 2,4-dimethoxypyrimidin-5-yl boronic acid | 207 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
product | 4-amino-N-cyclobutyl-8-(2,4-dimethoxypyrimidin-5-yl)-7-fluoro-cinnoline-3-carboxamide | 88 mg | NC1=C(N=NC2=C(C(=CC=C12)F)C=1C(=NC(=NC1)OC)OC)C(=O)NC1CCC1 | C19H19FN6O3
